US08003785B2
To a mixture of 0.053 g (0.12 mmole) of 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-138) and 0.06 g (0.15 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate in 2 mL of dimethylformamide was added 0.03 mL (0.186 mmole) of diisopropylethylamine. After stirring at room temperature for 30 minutes 0.01 g (0.186 mmole) of ammonium chloride was added. The mixture was stirred at room temperature for 18 hours and then diluted with ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with water, brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (30:70) to give 0.047 g of 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzamide (I-139).

reactant | 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.12 mmole, 0.053 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CC)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C21H23F2N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.15 mmole, 0.06 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.186 mmole, 0.03 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.186 mmole, 0.01 g | [Cl-].[NH4+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzamide | 0.047 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CC)C=NC(=N2)NC2=CC=C(C(=O)N)C=C2 | C21H24F2N6O2
